US04263299
(c) 1-(4-Chlorobenzyl)-4-[2-hydroxy-3-(4-hydroxycoumarin-7-yloxy)propyl]piperazine
A solution of 1-[3-(4-benzyloxycoumarin-7-yloxy)-2-hydroxypropyl]-4-(4-chlorobenzyl)piperazine (7 g) in dry DMF (80 ml) was hydrogenated at atmospheric pressure over 10% Pd/C catalyst till one equivalent of hydrogen was absorbed. Filtration and evaporation of the solvent in vacuo afforded an oily product which crystallized from ethanol/petrol to give 3.60 g (63%) of the title compound.

reactant | 1-[3-(4-benzyloxycoumarin-7-yloxy)-2-hydroxypropyl]-4-(4-chlorobenzyl)piperazine | 7 g | C(C1=CC=CC=C1)OC1=CC(OC2=CC(=CC=C12)OCC(CN1CCN(CC1)CC1=CC=C(C=C1)Cl)O)=O | C30H31ClN2O5
reactant | hydrogen | one equivalent | [H][H] | H2
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
catalyst | Pd/C | [Pd] | Pd
product | 1-(4-Chlorobenzyl)-4-[2-hydroxy-3-(4-hydroxycoumarin-7-yloxy)propyl]piperazine | 3.60 g, 63% | ClC1=CC=C(CN2CCN(CC2)CC(COC2=CC=C3C(=CC(OC3=C2)=O)O)O)C=C1 | C23H25ClN2O5
